US05491159
[2-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methyloxazol-4-yl]-acetic acid
Sodium hydroxide (2N, 5.0 mL, 10.0 mmol) was added to a solution of [2-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methyloxazol-4-yl]-acetic acid methyl ester (1.5 g, 4.18 mmol), MeOH (15 mL), and THF (15 mL). After stirring for 1 hour, the mixture was poured into water, acidified with HCl(2N) and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation and crystallization from acetone/ethyl ether/hexane gave a white solid (1.25 g, 87% yield), m.p. 205°-206° C.

reactant | Sodium hydroxide | 10.0 mmol, 2N, 5.0 mL | [OH-].[Na+]
reactant | [2-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methyloxazol-4-yl]-acetic acid methyl ester | 4.18 mmol, 1.5 g | COC(CC=1N=C(OC1C)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C)=O | C21H29NO4
reactant | MeOH | 15 mL | CO | CH4O
reactant | HCl | 2N | Cl | ClH
solvent | water | O | H2O
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | [2-(3,5-di-tert-butyl-4-hydroxyphenyl)-5-methyloxazol-4-yl]-acetic acid | 1.25 g, 87% yield | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=1OC(=C(N1)CC(=O)O)C | C20H27NO4
